US07612067B2
Preparation of 4-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophen-2-yl}-tetrahydro-pyran-4-ol
To a −78° C. solution of 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.60 g, 1.53 mmol) and THF (10 mL) is added 1.56 M n-Bu-Li (1.03 mL, 1.61 mmol). After 30 minutes tetrahydro-pyran-4-one (0.21 mL, 2.29 mmol) is added over 5 minutes. The solution is stirred at −78° C. for 2 hours, warmed to ambient temperature, diluted with EtOAc (50 mL), washed with sat. NH4Cl (50 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (20%-100% EtOAc/hexane gradient) furnish the title compound (0.38 g, 0.92 mmol, 60%). 1H NMR (CDCl3), δ 0.88 (t, J=7.5 Hz, 6H), 1.74-1.91 (m, 4H), 1.91-2.00 (m, 2H), 2.11 (s, 3H), 2.20-2.30 (m, 2H), 2.46 (s, 3H), 2.51 (s, 3H), 3.30-3.39 (m, 1H), 3.83-3.98 (m, 5H), 6.66 (s, 1H), 6.93 (s, 1H). LC/MS (m/z): calcd. for C23H31N3O2S (M+H)+: 414.3; found: 414.2.

reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.53 mmol, 0.60 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | n-Bu-Li | 1.61 mmol, 1.56 M, 1.03 mL | C(CCC)[Li]
reactant | tetrahydro-pyran-4-one | 2.29 mmol, 0.21 mL | O1CCC(CC1)=O | C5H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophen-2-yl}-tetrahydro-pyran-4-ol | 0.92 mmol, 0.38 g, 60% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C=C(S2)C2(CCOCC2)O)C | C23H31N3O2S
